US04124716
N-{2-[α-(Tricyclo-(2.2.1.02.6)hept-3-ylidene)-benzyloxy]ethyl}-morpholine
A solution of 19.83 g. (0.1 mol) of tricyclo-(2.2.1.02.6)hept-3-yl phenyl ketone in 45 ml. of anhydrous toluene was added while stirring and boiling to a suspension of 3.9 g. (0.1 mol) of sodium amide in 45 ml. of anhydrous toluene, followed by etherification with a solution of 14.96 g. (0.1 mol) of N-(2-chloroethyl)-morpholine in 45 ml. of anhydrous toluene in the same way as in Example 3.

reactant | tricyclo-(2.2.1.02.6)hept-3-yl phenyl ketone | 0.1 mol | C1(=CC=CC=C1)C(=O)C1C2C3C2CC1C3 | C14H14O
reactant | sodium amide | 0.1 mol | [NH2-].[Na+]
reactant | N-(2-chloroethyl)-morpholine | 0.1 mol | ClCCN1CCOCC1 | C6H12ClNO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-{2-[α-(Tricyclo-(2.2.1.02.6)hept-3-ylidene)-benzyloxy]ethyl}-morpholine | C12C3C(C(CC31)C2)=C(C2=CC=CC=C2)OCCN2CCOCC2 | C20H25NO2
